US08912200B2
Step 3: [(4-Bromo-2-methoxyphenyl)ethynyl](trimethyl)silane
To a solution of 4-bromo-1-iodo-2-methoxybenzene (1.634 g, 5.221 mmol) in dry acetonitrile (20 mL) CuI (49.7 mg, 0.261 mmol) and Pd(Ph3P)2Cl2 (183.2 mg, 0.261 mmol) were added under Argon atmosphere and the mixture was degassed and backfilled with Argon for three times. TEA (0.728 mL, 5.221 mmol) and (ethynyl)trimethylsilane (1.48 mL, 1.03 g, 10.442 mmol) were added with a syringe and the reaction mixture, that darkened within 10 min, was stirred at room temperature for 1 h. The solvent was removed under vacuum and the residue was taken up with EtOAc (100 mL), washed with brine (3×20 mL), water (20 mL), dried over sodium sulphate and evaporated to dryness. The crude was purified by chromatography on silica gel (petroleum ether/diethyl ether 9/1) to yield the title compound as an orange solid (1.426 g, 96.5%).

reactant | 4-bromo-1-iodo-2-methoxybenzene | 5.221 mmol, 1.634 g | BrC1=CC(=C(C=C1)I)OC | C7H6BrIO
reactant | acetonitrile | 0.261 mmol, 20 mL, 49.7 mg | C(C)#N | C2H3N
reactant | (ethynyl)trimethylsilane | 10.442 mmol, 1.48 mL, 1.03 g | C(#C)[Si](C)(C)C | C5H10Si
catalyst | Pd(Ph3P)2Cl2 | 0.261 mmol, 183.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [(4-Bromo-2-methoxyphenyl)ethynyl](trimethyl)silane | 1.426 g, 96.5% | BrC1=CC(=C(C=C1)C#C[Si](C)(C)C)OC | C12H15BrOSi
